US06660870B1
1-(N,N-Diethylaminoethyl)-2-(4-methylbenzamido)-6-methoxybenzimidazole was prepared by the method of Example 2 using 1-(N,N-diethylaminoethyl)-2-amino-6-methoxybenzimidazole and 4-methylbenzoyl chloride. 1H NMR (DMSO): δ 1.33(t, 6H), 2.51 (s, CH3 ar), 3.40 (m, 4H), 3.58 (m, 2H), 3.98 (s, 3H), 4.87 (m 2H), 6.99-8.28 (4 m, 7 H), 11.61 (broad s, NH).

reactant | 1-(N,N-diethylaminoethyl)-2-amino-6-methoxybenzimidazole | C(C)N(CC)CCN1C(=NC2=C1C=C(C=C2)OC)N | C14H22N4O
reactant | 4-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
product | 1-(N,N-Diethylaminoethyl)-2-(4-methylbenzamido)-6-methoxybenzimidazole | C(C)N(CC)CCN1C(=NC2=C1C=C(C=C2)OC)NC(C2=CC=C(C=C2)C)=O | C22H28N4O2
